US07435731B2
To a stirring ethanol (100 mL) suspension of 5-Chloro-3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-b]pyrazine (0.66 g, 1.7 mmol) under nitrogen at room temperature was added (S)-1-amino-2-propanol (0.63 g, 8.4 mmol). The reaction mixture was heated to reflux and stirred for 16 hours at reflux. The reaction mixture was cooled and concentrated under reduced pressure. The residue was chromatographed (2% MeOH in hexanes) to yield 82 mg of (R)-1-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-b]pyrazin-5-ylamino]-propan-2-ol. Mass spec., M+1=433.

reactant | 5-Chloro-3-(2-chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-b]pyrazine | 1.7 mmol, 0.66 g | ClC=1N=C2C(=NC1OC1=C(C=C(C=C1)F)F)NN=C2C2=C(C=CC=C2)Cl | C17H8Cl2F2N4O
reactant | (S)-1-amino-2-propanol | 8.4 mmol, 0.63 g | NC[C@H](C)O | C3H9NO
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | (R)-1-[3-(2-Chloro-phenyl)-6-(2,4-difluoro-phenoxy)-1H-pyrazolo[3,4-b]pyrazin-5-ylamino]-propan-2-ol | 82 mg | ClC1=C(C=CC=C1)C1=NNC2=NC(=C(N=C21)NC[C@@H](C)O)OC2=C(C=C(C=C2)F)F | C20H16ClF2N5O2
